US04248883
To a stirred solution of L-prolyl-L-phenylalanine tert-butyl ester (1.0 g) [prepared by the method described in Ann. Chem. 680, 132-141 (1964)] in dichloromethane at about -30° C. were added N-methylmorpholine (0.32 g) and then dropwise 3-acetylthio-2-methylpropanoyl chloride (0.57 g). The mixture was stirred at the same temperature for 30 minutes and then at room temperature for one hour. The reaction mixture was washed successively with 4% sodium bicarbonate, water, 10% citric acid, and water, dried over sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on silica gel with chloroform to give 1-(3-acetylthio-2-methylpropanoyl)-L-prolyl-L-phenylalanine tert-butyl ester.

reactant | L-prolyl-L-phenylalanine tert-butyl ester | 1.0 g | C(C)(C)(C)OC([C@@H](NC([C@H]1NCCC1)=O)CC1=CC=CC=C1)=O | C18H26N2O3
reactant | N-methylmorpholine | 0.32 g | CN1CCOCC1 | C5H11NO
reactant | 3-acetylthio-2-methylpropanoyl chloride | 0.57 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3-acetylthio-2-methylpropanoyl)-L-prolyl-L-phenylalanine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@H]1N(CCC1)C(C(CSC(C)=O)C)=O)=O)CC1=CC=CC=C1)=O | C24H34N2O5S
